US05182263
Bis(triphenylphosphine) palladium dichloride (120 mg, 0.2 mmol) was added to a deoxygenated mixture of (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-[4-[[(trifluoromethyl)sulfonyl]oxy]phenyl]propanoic acid diphenylmethyl ester (3.0 g, 5.2 mmol), t-butyl acrylate (1.5 mL, 10.2 mmol) and triethylamine (4.0 mL, 30.0 mmol) in DMF (50 mL) and the well-stirred suspension was then heated at 90° C. (24 h). The solvent was removed in vacuo and the resulting residue was purified by flash chromatography on silica gel eluting with a mixture of dichloromethane and hexanes (8:1) to give the (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-[4-[3-(1,1-dimethylethoxy)-3-oxo-1-propenyl]phenyl]propanoic acid diphenylmethyl ester (1.6 g, 2.8 mmol) in 54% yield, mp. 135°-137° C., [α]D -5.35° (0.97 % in ethanol).

reactant | (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-[4-[[(trifluoromethyl)sulfonyl]oxy]phenyl]propanoic acid diphenylmethyl ester | 5.2 mmol, 3.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C28H28F3NO7S
reactant | t-butyl acrylate | 10.2 mmol, 1.5 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 30.0 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
catalyst | Bis(triphenylphosphine) palladium dichloride | 0.2 mmol, 120 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-[4-[3-(1,1-dimethylethoxy)-3-oxo-1-propenyl]phenyl]propanoic acid diphenylmethyl ester | 2.8 mmol, 1.6 g, 54% yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)C=CC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C34H39NO6
